* Subcircuit SN74LVC1G0832
.subckt SN74LVC1G0832 net-_u1-pad1_ gnd net-_u1-pad3_ net-_u1-pad4_ gnd net-_u1-pad6_ 
* c:\fossee\esim\library\subcircuitlibrary\sn74lvc1g0832\sn74lvc1g0832.cir
* u2  net-_u1-pad1_ net-_u1-pad3_ net-_u2-pad3_ d_and
* u3  net-_u2-pad3_ net-_u1-pad6_ net-_u1-pad4_ d_or
a1 [net-_u1-pad1_ net-_u1-pad3_ ] net-_u2-pad3_ u2
a2 [net-_u2-pad3_ net-_u1-pad6_ ] net-_u1-pad4_ u3
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u2 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u3 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends SN74LVC1G0832